US06884868B1
To a solution of 4-(4-methanesulfonyloxypiperidin-1-yl)benzonitrile (4.90 g) in N,N-dimethylformamide (DMF) (50 ml) were added potassium carbonate (4.83 g) and 2,6-dimethylmorpholine (3.02 g), and the mixture was stirred at 90-95° C. for 6 hours. After cooling, the reaction mixture was poured into water (300 ml) and extracted twice with a mixture of ethyl acetate and n-hexane (100 ml:30 ml). The extracts were combined and washed in turn with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting precipitates were washed with IPE (100 ml), collected by filtration and dried in vacuo to give 4-[4-(2,6-dimethylmorpholin-4-yl)piperidin-1-yl]benzonitrile (2.29 g).

reactant | 4-(4-methanesulfonyloxypiperidin-1-yl)benzonitrile | 4.90 g | CS(=O)(=O)OC1CCN(CC1)C1=CC=C(C#N)C=C1 | C13H16N2O3S
reactant | potassium carbonate | 4.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethylmorpholine | 3.02 g | CC1CNCC(O1)C | C6H13NO
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[4-(2,6-dimethylmorpholin-4-yl)piperidin-1-yl]benzonitrile | 2.29 g | CC1CN(CC(O1)C)C1CCN(CC1)C1=CC=C(C#N)C=C1 | C18H25N3O
